US06949542B2
[2-Amino-4-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [2-nitro-4-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester (Example A24) (3.65 g, 11 mmol) by hydrogenation with 10% Pd/C according to the general procedure J (method a). Obtained as a light brown solid (3.16 g, 94%).

reactant | [2-nitro-4-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester | 11 mmol, 3.65 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)OCC(F)(F)F)[N+](=O)[O-])=O | C13H15F3N2O5
catalyst | Pd/C | [Pd] | Pd
product | [2-Amino-4-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)OCC(F)(F)F)N)=O | C13H17F3N2O3
